Circuito AC DC L3

.param renvvalue=1k
.param cenvvalue=15u
.param rvregvalue=6.3k
.param ndiodosenv=18

.csparam renvvalue={renvvalue}
.csparam rvregvalue={rvregvalue}
.csparam cenvvalue={cenvvalue}
.csparam ndiodosenv={ndiodosenv}

.options savecurrents
.MODEL d-default D
.MODEL n-diodes D (N={ndiodosenv})

*230/16=14.375


Vs 1 e 0.0 ac 1.0 sin(0 28.75 50 0 0)

D-env1 1 2 d-default
D-env2 e 2 d-default
D-env3 0 e d-default
D-env4 0 1 d-default

R-env 2 0 {renvvalue}

C-env 2 0 {cenvvalue} ic=0

R-vreg 2 3 {rvregvalue}

D-vreg 3 0 n-diodes


.control

set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

run
tran 1u 200m 0 uic

hardcopy exp_results.ps v(3) v(2) v(1)-v(e)

run
tran 1u 600m 400m uic
hardcopy exp_ripple.ps v(3)-12

meas tran maximo MAX v(3) from=400m to=600m
meas tran minimo MIN v(3) from=400m to=600m
meas tran media AVG v(3) from=400m to=600m

echo "**************"
echo "ripple_desvio_TAB"
let ripple=maximo-minimo
echo "ripple = $&ripple"
let desvio=abs(media-12)
echo "desvio = $&desvio"
echo "ripple_desvio_END"

let soma_r= (renvvalue+rvregvalue)/1000
let custo= soma_r+0.1*(ndiodosenv+4)+1000000*cenvvalue
let qualidade= 1/(ripple + desvio + 0.000001)
let merito= qualidade/custo
echo "**************"
echo "custo_merito_TAB"
echo "custo = $&custo"
echo "merito = $&merito"
echo "custo_merito_END"
echo "**************"

quit
.endc

.end
